### PR TITLE
[Merged by Bors] - feat: convolution product on linear maps from a coalgebra to an algebra

### PR DESCRIPTION
**Pull request by YaelDillies**
Construct the ring structure on linear maps `C → A` where `C` is a coalgebra and `A` an algebra, where multiplication is given by
`(f * g)(x) = ∑ f x₍₁₎ * g x₍₂₎` in Sweedler notation or
```
         |
         μ
|   |   / \
f * g = f g
|   |   \ /
         δ
         |
```
diagrammatically, where `μ` stands for multiplication and `δ` for comultiplication.

[Zulip](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/.60Mul.60.20instance.20on.20algebra.20homomorphisms.20from.20monoid.20algebra)

From Toric

Co-authored-by: Michał Mrugała <kiolterino@gmail.com>
Co-authored-by: Yunzhou Xie

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Can you link the Zulip thread that was about this?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+local notation "μ" => mul' R A
+local notation "δ" => comul
+local infix:70 " ⊗ₘ " => TensorProduct.map
+-- local notation "α" => TensorProduct.assoc _ _ _
+
+section Semiring
+variable [Semiring A] [Semiring B] [AddCommMonoid C] [Algebra R A] [Algebra R B] [Module R C]
+  [Coalgebra R C]
+
+instance instOne : One (C →ₗ[R] A) where one := Algebra.linearMap R A ∘ₗ counit
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:42]: Doesn't this create a diamond when C = A?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+# Convolution product on linear maps from a coalgebra to an algebra
+
+This file constructs the ring structure on linear maps `C → A` where `C` is a coalgebra and `A` an
+algebra, where multiplication is given by
+```
+         .
+        / \
+f * g = f g
+        \ /
+         .
```
Comment (erdOne) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:19]: I can't really parse this diagram.

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:19]: How would you render it?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:42]: It's deliberately an `abbrev`, the leakage is currently intentional.

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:42]: (I think this was discussed in the Zulip thread)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:19]: I personally would just write `(f * g)(x) = ∑ f x₍₁₎ * g x₍₂₎` in sweedler notation. It would be nice with a diagram though and perhaps you just need to explain what
```
 .
/ \
```
means (which I don't understand)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:42]: Probably scoping is enough. Do you care about `Ring (A →ₗ[R] A)` for a bialgebra `A`? There are genuinely two possible structures on them. Are they related in anyway and would we need to deal with both of them at the same time?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:42]: My proposed solution is revive the thread on Zulip. Either scoping or a new type synonym is probably the right approach.

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I have scoped

**Comment by smorel394** [comment]
This one looks mathematically fine to me. (I don't know abour diamonds and stuff like that.)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 3]
```diff
@@ -0,0 +1,136 @@
...
+variable {R A B C : Type*} [CommSemiring R]
+
+namespace LinearMap
+
+local notation "η" => Algebra.linearMap R A
+local notation "ε" => counit (R := R) (A := C)
+local notation "μ" => mul' R A
+local notation "δ" => comul
+local infix:70 " ⊗ₘ " => TensorProduct.map
+-- local notation "α" => TensorProduct.assoc _ _ _
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: Remove the comment?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 4]
```diff
@@ -0,0 +1,136 @@
...
+
+section Semiring
+variable [Semiring A] [Semiring B] [AddCommMonoid C] [Algebra R A] [Algebra R B] [Module R C]
+  [Coalgebra R C]
+
+/-- Convolution unit on linear maps from a coalgebra to an algebra. -/
+abbrev convOne : One (C →ₗ[R] A) where one := Algebra.linearMap R A ∘ₗ counit
+
+/-- Convolution product on linear maps from a coalgebra to an algebra. -/
+abbrev convMul : Mul (C →ₗ[R] A) where mul f g := mul' R A ∘ₗ TensorProduct.map f g ∘ₗ comul
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:47]: Am I right in thinking that if C = A is a bialgebra then these are creating diamonds when they're made scoped instances later on? If I am then are we sure we want this? If we are then the problems of writing `open scoped ConvolutionProduct` should be explained in the module docstring.

**Review by kbuzzard — COMMENTED** [review]
(deleted)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:47]: Yes, as mentioned above (https://github.com/leanprover-community/mathlib4/pull/25183#discussion_r2106158854) it creates a diamond.

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 5]
```diff
@@ -0,0 +1,136 @@
...
+open Coalgebra TensorProduct
+
+variable {R A B C : Type*} [CommSemiring R]
+
+namespace LinearMap
+
+local notation "η" => Algebra.linearMap R A
+local notation "ε" => counit (R := R) (A := C)
+local notation "μ" => mul' R A
+local notation "δ" => comul
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: Can you make a PR that scopes these to `BiAlgebra` or `HopfAlgebra`? I think there's a risk that we invent this over and over again across multiple files.

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Not sure this is a good idea, because we might want in the future the analogous notation but where the maps are bundled as `AlgHom`s, `CoalgHom`s or `BialgHom`s. Therefore it doesn't look like I can tie the notation to either of `Coalgebra`, `Bialgebra` or `HopfAlgebra`

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:47]: > are we sure we want this?

Yes, definitely. Working with a type synonym makes things a lot less ergonomic, when the whole point of working with Hopf algebras in the first place is to deal with linear maps! I've added some implementation notes

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Perhaps `HopfAlgebra.LinearMap` and `HopfAlgebra.AlgHom`? That is, use `HopfAlgebra` for the whole family ,but have different namespaces for different bundlings?

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I've used `RingTheory` in place of `HopfAlgebra` because it seems more cogent

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+
+section Semiring
+variable [Semiring A] [Semiring B] [AddCommMonoid C] [Algebra R A] [Algebra R B] [Module R C]
+  [Coalgebra R C]
+
+/-- Convolution unit on linear maps from a coalgebra to an algebra. -/
+abbrev convOne : One (C →ₗ[R] A) where one := Algebra.linearMap R A ∘ₗ counit
+
+/-- Convolution product on linear maps from a coalgebra to an algebra. -/
+abbrev convMul : Mul (C →ₗ[R] A) where mul f g := mul' R A ∘ₗ TensorProduct.map f g ∘ₗ comul
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:47]: For multiplication, why not relax the assumptions to `NonUnitalNonAssocSemiring B, Module R B, SMulCommClass ..., IsScalarTower ...` and `CoalgebraStruct R C`?

Then you can have a `NonUnitalNonAssocSemiring (C →ₗ[R] A)`. Then making `B` associative gives you a `NonUnitalSemiring` (with `Coalgebra` instead of `CoalgebraStruct` of course), etc.

I think I like that way better

**Comment by themathqueen** [comment]
Can you also add:
```lean
theorem toSpanSingleton_mul_toSpanSingleton (x y : A) :
    (toSpanSingleton R A x) * (toSpanSingleton R A y) = toSpanSingleton R A (x * y) := by
  ext; simp
```
(this should work for `NonUnitalNonAssocSemiring`)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:47]: Sure, yes!

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 7]
```diff
@@ -0,0 +1,189 @@
...
+
+end NonUnitalNonAssocSemiring
+
+open scoped ConvolutionProduct
+
+section NonUnitalNonAssocRing
+variable [NonUnitalNonAssocRing A] [AddCommMonoid C] [Module R A] [SMulCommClass R A A]
+  [IsScalarTower R A A] [Module R C] [CoalgebraStruct R C]
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
/-- Non-unital and non-associative convolution ring structure on linear maps from a
coalgebra to a non-unital and non-associative algebra. -/
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 8]
```diff
@@ -0,0 +1,189 @@
...
+
+lemma mul_def (f g : C →ₗ[R] A) : f * g = mul' R A ∘ₗ TensorProduct.map f g ∘ₗ comul := rfl
+
+@[simp] lemma mul_apply (f g : C →ₗ[R] A) (c : C) : (f * g) c = mul' R A (.map f g (comul c)) := rfl
+
+lemma _root_.Coalgebra.Repr.mul_apply {a : C} (𝓡 : Coalgebra.Repr R a) (f g : C →ₗ[R] A) :
+    (f * g) a = ∑ i ∈ 𝓡.index, f (𝓡.left i) * g (𝓡.right i) := by
+  simp [mul_def, ← 𝓡.eq]
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
/-- Non-unital and non-associative convolution semiring structure on linear maps from a
coalgebra to a non-unital non-associative algebra. -/
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 9]
```diff
@@ -0,0 +1,189 @@
...
+    simp only [map_map_comp_assoc_symm_eq, comp_assoc]
+  _ = (μ ∘ₗ .lTensor _ μ) ∘ₗ (f ⊗ₘ (g ⊗ₘ h)) ∘ₗ (lTensor C δ ∘ₗ δ) := by
+    congr 1
+    ext
+    simp [mul_assoc]
+  _ = μ ∘ₗ (f ⊗ₘ μ ∘ₗ (g ⊗ₘ h) ∘ₗ δ) ∘ₗ δ := by
+    rw [comp_assoc, ← comp_assoc _ _ (lTensor _ _), lTensor_comp_map,
+      ← comp_assoc _ (lTensor _ _), map_comp_lTensor, comp_assoc]
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
/-- Non-unital convolution semiring structure on linear maps from a coalgebra to a
non-unital algebra. -/
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 10]
```diff
@@ -0,0 +1,189 @@
...
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convNonUnitalSemiring
+
+end NonUnitalSemiring
+
+section NonUnitalRing
+variable [NonUnitalRing A] [AddCommMonoid C] [Module R A] [SMulCommClass R A A]
+  [IsScalarTower R A A] [Module R C] [Coalgebra R C]
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
/-- Non-unital convolution ring structure on linear maps from a coalgebra to a
non-unital algebra. -/
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 11]
```diff
@@ -0,0 +1,189 @@
...
+end NonUnitalRing
+
+section Semiring
+variable [Semiring A] [Semiring B] [AddCommMonoid C] [Algebra R A] [Algebra R B] [Module R C]
+  [Coalgebra R C]
+
+-- TODO: Where to move?
+-- `#min_imports` says `Algebra.Algebra.Bilinear` + `LinearAlgebra.TensorProduct.Tower`.
+lemma _root_.AlgHom.map_comp_mul (h : A →ₐ B) :
+    h.toLinearMap ∘ₗ μ = mul' R B ∘ₗ (h.toLinearMap ⊗ₘ h.toLinearMap) := by ext; simp
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: move this to `Algebra/Algebra/Bilinear`, and this should be the proof:
```suggestion
lemma _root_.AlgHom.map_comp_mul (h : A →ₐ B) :
    h.toLinearMap ∘ₗ μ = mul' R B ∘ₗ (h.toLinearMap ⊗ₘ h.toLinearMap) :=
  TensorProduct.ext' <| by simp
```

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: wouldn't `AlgHom.comp_mul` be a more appropriate name?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 12]
```diff
@@ -0,0 +1,189 @@
...
+  [IsScalarTower R A A] [Module R C] [CoalgebraStruct R C]
+
+/-- Convolution product on linear maps from a coalgebra to an algebra. -/
+abbrev convMul : Mul (C →ₗ[R] A) where mul f g := mul' R A ∘ₗ TensorProduct.map f g ∘ₗ comul
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convMul
+
+open scoped ConvolutionProduct
+
+lemma mul_def (f g : C →ₗ[R] A) : f * g = mul' R A ∘ₗ TensorProduct.map f g ∘ₗ comul := rfl
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: instead of `mul_`, to avoid confusion with `Module.End.mul_`, wouldn't it be better to call them `convMul_def`, `convMul_apply`, etc?
same thing for `one_`, maybe keeping `convOne_` would be better in the lemma names?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 13]
```diff
@@ -0,0 +1,189 @@
...
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convNonUnitalNonAssocRing
+
+end NonUnitalNonAssocRing
+
+section NonUnitalSemiring
+variable [NonUnitalSemiring A] [AddCommMonoid C] [Module R A] [SMulCommClass R A A]
+  [IsScalarTower R A A] [Module R C] [Coalgebra R C]
+
+private lemma convMul_assoc (f g h : C →ₗ[R] A) : f * g * h = f * (g * h) := calc
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: I don't think these should be private. My thought is that, in the case where `C = A` and we can't have this instance, we can use convolution multiplication as `convMul.mul` (maybe even have a scoped notation for this?).
```suggestion
lemma convMul_assoc (f g h : C →ₗ[R] A) : f * g * h = f * (g * h) := calc
```

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: If we do go this way, then I think it might be a good idea to first define multiplication with some auxiliary definition as a bilinear map (so that we can have left-distribution, right-distribution, etc without invoking the instance).

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 14]
```diff
@@ -92,6 +92,8 @@ def mul : A →ₗ[R] A →ₗ[R] A :=
 noncomputable def mul' : A ⊗[R] A →ₗ[R] A :=
   TensorProduct.lift (mul R A)
 
+@[inherit_doc] scoped [RingTheory.LinearMap] notation "μ" => LinearMap.mul' _ _
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Bilinear.lean]: The problem with this is that it wouldn't always infer the commutative-semiring `R` when using it with the other notation. As annoying as it would be, I think changing this to something like:
```suggestion
@[inherit_doc] scoped [RingTheory.LinearMap] notation "μ" R:max => LinearMap.mul' R _
```
might be better. For example, in your lemma `AlgHom.map_comp_mul`, writing this in notation would work:
```lean
lemma _root_.AlgHom.map_comp_mul (h : A →ₐ B) :
    h.toLinearMap ∘ₗ μ R = μ R ∘ₗ (h.toLinearMap ⊗ₘ h.toLinearMap) :=
  TensorProduct.ext' <| by simp
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I would prefer to put this off until someone actually tries to use the convolution product when `C = A`. I have so far no evidence that there will be any issue.

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I would need it for when `C = A` :eyes:. For example, a _non-commutative adjacency matrix_ (a non-commutative generalization of a classical adjacency matrix) can basically be dumbed down to `convMul.mul f f = f` where `f : A →ₗ A`.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean]: Usually what we want do in such situation is to add a `μ[R]`-like notation. I've done so

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: `AlgHom.comp_mul'` quite precisely!

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Still, do you know whether you get any issue with the composition product?

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I can't say for sure (I'll try later today), but we would need to use composition and the convolution product together.

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: What do you mean by issue with the composition product btw? The convolution product instance gets priority over composition product. From what I can tell, it would be messy in this special case.

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Here is another example of how this could get messy:

So when `f` is an idempotent operator on `A` (with respect to the convolution product), then `Φ(f)` is an idempotent operator on `A ⊗ A` (with respect to the composition product). `Φ` is an isomorphism between operators on `A` and _bi-module map_ operators on `A ⊗ A`.

(here `A` is a finite-dimensional C*-algebra with a faithful and positive functional, which induces a coalgebra structure)

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I just mean that `*` could be considered the wrong thing.

I think it's going to be hard for me to design a convolution product working for your application without seeing your application. What about we postpone this to a later discussion? There is a lot more material from Toric that is waiting on this PR.

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: It's something like this:

```lean

variable {R A : Type*} [CommSemiring R] [NonUnitalSemiring A]
  [Module R A] [Coalgebra R A] [SMulCommClass R A A] [IsScalarTower R A A]

def Φ (f : A →ₗ[R] A) : (A ⊗[R] A) →ₗ[R] (A ⊗[R] A) := sorry

theorem isIdempotentElem_Φ_iff (f : A →ₗ[R] A) :
    @IsIdempotentElem _ Module.End.instMul (Φ f)
      ↔ @IsIdempotentElem _ convMul f := sorry
```

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: But perhaps we could postpone this discussion. That might be sooner than you think though, and then we _might_ need to refactor stuff? So maybe we should just hash this out by today/tomorrow?
So what's the issue with having a type synonym for this?

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Okay, you know what, this is fine. One (naive) solution might just be to create a type synonym for when `C = A`.

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 15]
```diff
@@ -369,6 +369,8 @@ packaged as an `R`-linear map.
 protected def linearMap : R →ₗ[R] A :=
   { algebraMap R A with map_smul' := fun x y => by simp [Algebra.smul_def] }
 
+@[inherit_doc] scoped[RingTheory.LinearMap] notation "η" => Algebra.linearMap _ _
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Defs.lean:375]: make a `η[R]` version too?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 16]
```diff
@@ -0,0 +1,189 @@
...
+  _ = f := by ext; simp
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
+abbrev convSemiring : Semiring (C →ₗ[R] A) where
+  one_mul := convOne_convMul
+  mul_one := convMul_convOne
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convSemiring
+
+lemma comp_mul_distrib (f g : C →ₗ[R] A) (h : A →ₐ B) :
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
lemma _root_.AlgHom.comp_mul_distrib (h : A →ₐ B) (f g : C →ₗ[R] A) :
```
Or just `_root_.AlgHom.comp_mul`? Or maybe `_root_.AlgHom.comp_convMul`? to keep things consistent?

Can you also add one for non-unital algebra homomorphisms too (and also add `NonUnitalAlgHom.comp_mul'`)?

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I want to keep this in the `LinearMap` namespace because I will soon introduce the convolution product on other types of maps, but I've done the rest of your suggestions

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: > It's something like this:
> ...

Wow yes that looks difficult. But okay let's move on for now, so that there is *some* implementation in mathlib sooner than later, makes it easier to iterate :)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 17]
```diff
@@ -0,0 +1,193 @@
...
+coalgebra to a non-unital non-associative algebra. -/
+abbrev convNonUnitalNonAssocSemiring : NonUnitalNonAssocSemiring (C →ₗ[R] A) where
+  left_distrib f g h := by ext; simp [TensorProduct.map_add_right]
+  right_distrib f g h := by ext; simp [TensorProduct.map_add_left]
+  zero_mul f := by ext; simp
+  mul_zero f := by ext; simp
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convNonUnitalNonAssocSemiring
+
+@[simp] lemma toSpanSingleton_mul_toSpanSingleton (x y : A) :
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
@[simp] lemma toSpanSingleton_convMul_toSpanSingleton (x y : A) :
```
Or do you think reversing this would be better and then name it `toSpanSingleton_mul`? But then I don't think it would be a nice `simp` lemma... idk

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: I can see how this way around is a better simp lemma

**Review by themathqueen — APPROVED** [review]
looks good to me :)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 18]
```diff
@@ -0,0 +1,193 @@
...
+
+private lemma convOne_convMul (f : C →ₗ[R] A) : 1 * f = f := calc
+      μ ∘ₗ ((η ∘ₗ ε) ⊗ₘ f) ∘ₗ δ
+  _ = μ ∘ₗ ((η ⊗ₘ f) ∘ₗ rTensor C ε) ∘ₗ δ  := by simp only [map_comp_rTensor]
+  _ = μ ∘ₗ (η ⊗ₘ f) ∘ₗ (rTensor C ε) ∘ₗ δ := by rw [comp_assoc]
+  _ = μ ∘ₗ (rTensor A η ∘ₗ lTensor R f) ∘ₗ rTensor C ε ∘ₗ δ := by simp
+  _ = (μ ∘ₗ rTensor A η) ∘ₗ lTensor R f ∘ₗ (rTensor C ε ∘ₗ δ) := by simp only [comp_assoc]
+  _ = (μ ∘ₗ rTensor A η) ∘ₗ lTensor R f ∘ₗ ((TensorProduct.mk R R C) 1) := by
+    rw [rTensor_counit_comp_comul]
+  _ = f := by ext; simp
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
private lemma convOne_convMul (f : C →ₗ[R] A) : 1 * f = f := by
  rw [convOne_def, convMul_def, ← map_comp_rTensor, comp_assoc]
  ext; simp
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 19]
```diff
@@ -0,0 +1,193 @@
...
+
+private lemma convMul_convOne (f : C →ₗ[R] A) : f * 1 = f := calc
+      μ ∘ₗ (f ⊗ₘ (η ∘ₗ ε)) ∘ₗ δ
+  _ = μ ∘ₗ ((f ⊗ₘ η) ∘ₗ lTensor C ε) ∘ₗ δ  := by simp only [map_comp_lTensor]
+  _ = μ ∘ₗ (f ⊗ₘ η) ∘ₗ lTensor C ε ∘ₗ δ := by rw [comp_assoc]
+  _ = μ ∘ₗ (lTensor A η ∘ₗ rTensor R f) ∘ₗ lTensor C ε ∘ₗ δ := by simp
+  _ = (μ ∘ₗ lTensor A η) ∘ₗ rTensor R f ∘ₗ (lTensor C ε ∘ₗ δ) := by simp only [comp_assoc]
+  _ = (μ ∘ₗ lTensor A η) ∘ₗ rTensor R f ∘ₗ ((TensorProduct.mk R C R).flip 1) := by
+    rw [lTensor_counit_comp_comul]
+  _ = f := by ext; simp
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
private lemma convMul_convOne (f : C →ₗ[R] A) : f * 1 = f := by
  rw [convOne_def, convMul_def, ← map_comp_lTensor, comp_assoc]
  ext; simp
```

**Review by themathqueen — COMMENTED** [review]
some golfs

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 20]
```diff
@@ -256,3 +258,22 @@ theorem toSpanSingleton_eq_algebra_linearMap : toSpanSingleton R A 1 = Algebra.l
...
+lemma comp_mul' (f : A →ₙₐ[R] B) : (f : A →ₗ[R] B) ∘ₗ μ = μ[R] ∘ₗ (f ⊗ₘ f) :=
+  TensorProduct.ext' <| by simp
+
+end NonUnitalAlgHom
+
+namespace AlgHom
+variable [CommSemiring R] [Semiring A] [Semiring B] [Algebra R A] [Algebra R B]
+
+lemma comp_mul' (f : A →ₐ B) : f.toLinearMap ∘ₗ μ = μ[R] ∘ₗ (f.toLinearMap ⊗ₘ f.toLinearMap) :=
+  TensorProduct.ext' <| by simp
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Bilinear.lean:301]: this should work:
```suggestion
  f.toNonUnitalAlgHom.comp_mul'
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 21]
```diff
@@ -0,0 +1,179 @@
...
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convSemiring
+
+lemma nonUnitalAlgHom_comp_convMul_distrib (f g : C →ₗ[R] A) (h : A →ₙₐ[R] B) :
+    (h : A →ₗ[R] B).comp (f * g) = .comp h f * .comp h g := by
+  simp only [convMul_def, map_comp, ← comp_assoc, NonUnitalAlgHom.comp_mul']
+
+lemma algHom_comp_convMul_distrib (f g : C →ₗ[R] A) (h : A →ₐ B) :
+    h.toLinearMap.comp (f * g) = h.toLinearMap.comp f * h.toLinearMap.comp g := by
+  simp only [convMul_def, map_comp, ← comp_assoc, AlgHom.comp_mul']
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: same thing here, you should be able to use the above for the proof?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 22]
```diff
@@ -0,0 +1,179 @@
...
+  ext; simp [convOne_def, ← map_comp_lTensor]
+
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
+abbrev convSemiring : Semiring (C →ₗ[R] A) where
+  one_mul := convOne_convMul
+  mul_one := convMul_convOne
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convSemiring
+
+lemma nonUnitalAlgHom_comp_convMul_distrib (f g : C →ₗ[R] A) (h : A →ₙₐ[R] B) :
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: last thing: shouldn't the order of the variables go the other way around?
```suggestion
lemma nonUnitalAlgHom_comp_convMul_distrib (h : A →ₙₐ[R] B) (f g : C →ₗ[R] A) :
```
same thing below

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean:301]: Sure, it works, but the current proof is more maintainable, or so I think

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Bilinear.lean:301]: 🤷‍♀️, I would've thought it would be better to use a proven lemma

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 23]
```diff
@@ -256,3 +258,22 @@ theorem toSpanSingleton_eq_algebra_linearMap : toSpanSingleton R A 1 = Algebra.l
...
 end LinearMap
+
+open scoped RingTheory.LinearMap
+
+namespace NonUnitalAlgHom
+variable [CommSemiring R] [Semiring A] [Semiring B] [Module R A] [Module R B]
+  [SMulCommClass R A A] [IsScalarTower R A A] [SMulCommClass R B B] [IsScalarTower R B B]
+
+lemma comp_mul' (f : A →ₙₐ[R] B) : (f : A →ₗ[R] B) ∘ₗ μ = μ[R] ∘ₗ (f ⊗ₘ f) :=
+  TensorProduct.ext' <| by simp
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Bilinear.lean:293]: Do you think it would be better to have:
```lean
lemma LinearMap.map_mul_iff' {f : A →ₗ[R] B} :
    (∀ x y, f (x * y) = f x * f y) ↔ f ∘ₗ LinearMap.mul' R A = LinearMap.mul' R B ∘ₗ (map f f) := by
  simp only [LinearMap.map_mul_iff, TensorProduct.ext_iff]
  exact Iff.rfl
```
then either keeping these (and changing the proofs to `LinearMap.map_mul_iff'.mp f.map_mul`) or removing them and just rewriting using `LinearMap.map_mul_iff'.mp f.map_mul`?

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean:301]: Yeah but maybe the previous lemma changes name, or is moved or...

 It's not very important either way, but I believe the current proof is slightly more stable

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: As above, the current proof is probably good enough

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean:293]: I think it's slightly overengineered for now

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Bilinear.lean:293]: I mean, with that you can rewrite it for any `MulHomClass` and `LinearMapClass` (like `AlgEquiv` for example), without needing to duplicate the theorem.

Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean:293]: No I can't, because the `∘ₗ` in the statement refers to `LinearMap _ _ _`

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Bilinear.lean:293]: hmm, but this works:
```lean
import Mathlib.Algebra.Algebra.Bilinear

open TensorProduct

variable {R A B}
  [CommSemiring R] [NonUnitalSemiring A] [NonUnitalSemiring B] [Module R A] [Module R B]
  [SMulCommClass R A A] [IsScalarTower R A A] [SMulCommClass R B B] [IsScalarTower R B B]

lemma LinearMap.map_mul_iff' {f : A →ₗ[R] B} :
    (∀ x y, f (x * y) = f x * f y) ↔ f ∘ₗ LinearMap.mul' R A = LinearMap.mul' R B ∘ₗ (map f f) := by
  simp only [LinearMap.map_mul_iff, TensorProduct.ext_iff]
  exact Iff.rfl

example {F : Type*} [FunLike F A B] [LinearMapClass F R A B] [MulHomClass F A B] (f : F) :
    f ∘ₗ LinearMap.mul' R A = LinearMap.mul' R B ∘ₗ map f f := by
  rw [LinearMap.map_mul_iff'.mp (map_mul f)]
```

[online link](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0BBdAcwFMsol8jTycAhYTAO2KSgCg2IxjG4AVHgGdoABSgQAJgFcAxjA4A3VsCRZ0xOAG8ASnDxxaAXzZw4AbQDCEECADKxEMCjBGhONoC65gHIRGAVUZgGCR0e0dnVz0vM18AoJCwhycXN1oYhEkpdXdo80zpHN10k3NbBGyrGwt0JEFBXP08GIBJQVsZUNY+CAB3YihGvLNyyusQGrqG4oNW9s7aqB7+wZmStnUbJDgAGRcWKGQwHBAkMAB9EGzz4AAzW4ByLVu4AC49OEAkwkB0gjNPA0Mb1KpgAFIAAIjgAA84ABPAA0cBeIOhACpYQBKOAAXkRULgaJeMMxgBTCXGADCJvrt9qwjidsk9dPocXtmDSznT0AyDHAKXAQacwLjbpjXjisDDSoJQIK/OgYeYWQdaQLLtc7rcEQJGMIoGIsnIcMRITAbvcPKUjUg5HAWvccFBbugOJbwDlNAAxN78GHcFGAszuqSMPYAaw0nv06QV1MOZ0m9TgnsZs3y2QAEtZ4w0IymQS93u6RcDyZTFWzjldOUNmTHlfTcrQeZSBUK3mKJaYoL1o6zYxWzqr0KbHidBfyB5XEejzUA)

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 24]
```diff
@@ -0,0 +1,179 @@
...
+    h.toLinearMap.comp (f * g) = h.toLinearMap.comp f * h.toLinearMap.comp g := by
+  simp [convMul_def, map_comp, ← comp_assoc, AlgHom.comp_mul']
+
+end Semiring
+
+section Ring
+variable [Ring A] [AddCommMonoid C] [Algebra R A] [Module R C] [Coalgebra R C]
+
+/-- Convolution ring structure on linear maps from a coalgebra to an algebra. -/
+instance convRing : Ring (C →ₗ[R] A) where
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: I think you meant `abbrev` or `def` or whatever instead of `instance` here

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Bilinear.lean:293]: Sure, but secretly `f ∘ₗ ...` is actually `LinearMapClass.linearMap f ∘ₗ ...` and we are trying to get rid of it: #21031

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 24 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Whoops, yeah
```suggestion
abbrev convRing : Ring (C →ₗ[R] A) where
```

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 25]
```diff
@@ -256,3 +258,22 @@ theorem toSpanSingleton_eq_algebra_linearMap : toSpanSingleton R A 1 = Algebra.l
 end Semiring
 
 end LinearMap
+
+open scoped RingTheory.LinearMap
+
+namespace NonUnitalAlgHom
+variable [CommSemiring R] [Semiring A] [Semiring B] [Module R A] [Module R B]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Bilinear.lean]:
```suggestion
variable [CommSemiring R] [NonUnitalSemiring A] [NonUnitalSemiring B] [Module R A] [Module R B]
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 26]
```diff
@@ -0,0 +1,179 @@
...
+  left_distrib f g h := by ext; simp [map_add_right]
+  right_distrib f g h := by ext; simp [map_add_left]
+  zero_mul f := by ext; simp
+  mul_zero f := by ext; simp
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convNonUnitalNonAssocSemiring
+
+@[simp] lemma toSpanSingleton_convMul_toSpanSingleton (x y : A) :
+    toSpanSingleton R A x * toSpanSingleton R A y = toSpanSingleton R A (x * y) := by ext; simp
+
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:74]: since you have `algHom_comp_convMul_distrib`, it might make sense to also add
```suggestion

lemma convMul_comp_coalgHom_distrib [AddCommMonoid B] [Module R B] [CoalgebraStruct R B]
    (f g : C →ₗ[R] A) (h : B →ₗc[R] C) :
    (f * g).comp h.toLinearMap = f.comp h.toLinearMap * g.comp h.toLinearMap := by
  simp [convMul_def, map_comp, comp_assoc]

```
and strengthen the import to `.Coalgebra.Hom`

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 27]
```diff
@@ -0,0 +1,179 @@
...
+/-- Convolution semiring structure on linear maps from a coalgebra to an algebra. -/
+abbrev convSemiring : Semiring (C →ₗ[R] A) where
+  one_mul := convOne_convMul
+  mul_one := convMul_convOne
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convSemiring
+
+lemma nonUnitalAlgHom_comp_convMul_distrib (h : A →ₙₐ[R] B) (f g : C →ₗ[R] A) :
+    (h : A →ₗ[R] B).comp (f * g) = .comp h f * .comp h g := by
+  simp [convMul_def, map_comp, ← comp_assoc, NonUnitalAlgHom.comp_mul']
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: move this to the `NonUnitalSemiring` section and change it to:
```suggestion
lemma nonUnitalAlgHom_comp_convMul_distrib {C : Type*} [NonUnitalSemiring B] [AddCommMonoid C]
    [Module R B] [Module R C] [CoalgebraStruct R C] [SMulCommClass R B B] [IsScalarTower R B B]
    (h : A →ₙₐ[R] B) (f g : C →ₗ[R] A) :
    (h : A →ₗ[R] B).comp (f * g) = .comp h f * .comp h g := by
  simp [convMul_def, map_comp, ← comp_assoc, NonUnitalAlgHom.comp_mul']
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 28]
```diff
@@ -0,0 +1,179 @@
...
+
+lemma algHom_comp_convMul_distrib (h : A →ₐ B) (f g : C →ₗ[R] A) :
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
lemma algHom_comp_convMul_distrib {C : Type*} [AddCommMonoid C] [Module R C] [CoalgebraStruct R C]
    (h : A →ₐ B) (f g : C →ₗ[R] A) :
```

**Review by themathqueen — COMMENTED** [review]
Sorry, I promise these are my last comments haha

File: Mathlib/RingTheory/Coalgebra/Convolution.lean (hunk 26 above)
Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:74]: Or, actually, maybe add this to `Coalgebra.Hom` and keep the imports in this file at a minimum?

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 29]
```diff
@@ -0,0 +1,213 @@
...
+  [IsCocomm R C]
+
+/-- Commutative convolution semiring structure on linear maps from a cocommutative coalgebra to an
+algebra. -/
+abbrev convCommSemiring : CommSemiring (C →ₗ[R] A) where
+  mul_comm f g := by
+    rw [convMul_def, ← comm_comp_comul, ← LinearMap.comp_assoc δ, map_comp_comm_eq, convMul_def,
+      ← LinearMap.comp_assoc, ← LinearMap.comp_assoc, ← LinearMap.comp_assoc]
+    congr 3
+    ext; exact mul_comm _ _
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: I'd leave the commutative stuff for a different PR to not make this any longer tbh. Should also do this for `NonUnitalNonAssocCommSemiring` and so on though.

Also, I claim this is a better proof, first to have this:
```lean
theorem LinearMap.mul'_comp_comm [NonUnitalNonAssocCommSemiring A]
    [Module R A] [SMulCommClass R A A] [IsScalarTower R A A] :
    mul' R A ∘ₗ TensorProduct.comm R A A = mul' R A :=
  TensorProduct.ext' <| by simp [mul_comm]

theorem LinearMap.mul'_comm [NonUnitalNonAssocCommSemiring A] [Module R A]
    [SMulCommClass R A A] [IsScalarTower R A A] (x : A ⊗[R] A) :
    mul' R A (TensorProduct.comm R A A x) = mul' R A x :=
  congr($mul'_comp_comm _)
```
then you can do:
```suggestion
    ext x
    rw [convMul_apply, ← comm_comul R x, map_comm, mul'_comm, convMul_apply]
```

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: > I'd leave the commutative stuff for a different PR to not make this any longer tbh

... except I need it. The only reason it wasn't in the PR originally was that `IsCocomm` hadn't made it to master yet 😉

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Your golf doesn't work because of a missing instance. See #29634

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: You're supposed to change the assumption here to `NonUnitalNonAssocCommSemiring` too.

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Sure, but then it won't apply to `CommSemiring` because of the missing instance

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Ah, yeah. Hopefully we'll get that fixed soon.

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Okay, I could do the golf at the cost of ungeneralising the auxiliary lemmas

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 30]
```diff
@@ -255,4 +257,37 @@ theorem toSpanSingleton_eq_algebra_linearMap : toSpanSingleton R A 1 = Algebra.l
 
 end Semiring
 
+section CommSemiring
+-- TODO: Generalise to `NonUnitalNonAssocCommSemiring`. This can't currently be done
+-- because there is no instance **to** `NonUnitalNonAssocCommSemiring`.
+variable [CommSemiring R] [NonUnitalCommSemiring A]
+  [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
+
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Bilinear.lean:273]: can you also add this, to match [ContinuousLinearMap.flip_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Operator/Mul.html#ContinuousLinearMap.flip_mul)
```suggestion

@[simp] theorem flip_mul : (mul R A).flip = mul R A := by ext; simp [mul_comm]

```
then you have the choice of proving `mul'_comp_comm` using it (personally, I'd use it, since the proof would just be `simp [mul', lift_comp_comm_eq]`).

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 31]
```diff
@@ -0,0 +1,209 @@
...
+  simp [convMul_def, map_comp, comp_assoc]
+
+/-- Non-unital convolution semiring structure on linear maps from a coalgebra to a
+non-unital algebra. -/
+abbrev convNonUnitalSemiring : NonUnitalSemiring (C →ₗ[R] A) where
+  mul_assoc f g h := calc
+        μ ∘ₗ (μ ∘ₗ (f ⊗ₘ g) ∘ₗ δ ⊗ₘ h) ∘ₗ δ
+    _ = (μ ∘ₗ .rTensor _ μ) ∘ₗ ((f ⊗ₘ g) ⊗ₘ h) ∘ₗ (.rTensor _ δ ∘ₗ δ) := by
+      rw [comp_assoc, ← comp_assoc _ _ (rTensor _ _), rTensor_comp_map,
+        ← comp_assoc _ (rTensor _ _), map_comp_rTensor, comp_assoc]
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
    _ = (μ ∘ₗ .rTensor _ μ) ∘ₗ ((f ⊗ₘ g) ⊗ₘ h) ∘ₗ (.rTensor _ δ ∘ₗ δ) := by ext; simp
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 32]
```diff
@@ -0,0 +1,209 @@
...
+    _ = (μ ∘ₗ rTensor A μ ∘ₗ ↑(TensorProduct.assoc R A A A).symm)
+        ∘ₗ (f ⊗ₘ (g ⊗ₘ h)) ∘ₗ lTensor C δ ∘ₗ δ := by
+      simp only [map_map_comp_assoc_symm_eq, comp_assoc]
+    _ = (μ ∘ₗ .lTensor _ μ) ∘ₗ (f ⊗ₘ (g ⊗ₘ h)) ∘ₗ (lTensor C δ ∘ₗ δ) := by
+      congr 1
+      ext
+      simp [mul_assoc]
+    _ = μ ∘ₗ (f ⊗ₘ μ ∘ₗ (g ⊗ₘ h) ∘ₗ δ) ∘ₗ δ := by
+      rw [comp_assoc, ← comp_assoc _ _ (lTensor _ _), lTensor_comp_map,
+        ← comp_assoc _ (lTensor _ _), map_comp_lTensor, comp_assoc]
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]:
```suggestion
    _ = μ ∘ₗ (f ⊗ₘ μ ∘ₗ (g ⊗ₘ h) ∘ₗ δ) ∘ₗ δ := by ext; simp
```

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 33]
```diff
@@ -0,0 +1,205 @@
...
+  simp [convMul_def, map_comp, ← comp_assoc, AlgHom.comp_mul']
+
+end CoalgebraStruct
+
+variable [Coalgebra R C]
+
+/-- Convolution unit on linear maps from a coalgebra to an algebra. -/
+abbrev convOne : One (C →ₗ[R] A) where one := Algebra.linearMap R A ∘ₗ counit
+
+scoped[ConvolutionProduct] attribute [instance] LinearMap.convOne LinearMap.convMul
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean]: Is the `LinearMap.convMul` here necessary? Isn't it already a scoped instance from before?

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean]: Whoops, yes

**Review by erdOne — COMMENTED** [review]
Let's get this into mathlib.
maintainer merge

File: Mathlib/RingTheory/Coalgebra/Convolution.lean [hunk 34]
```diff
@@ -0,0 +1,205 @@
...
+
+open scoped ConvolutionProduct
+
+section NonUnitalNonAssocRing
+variable [NonUnitalNonAssocRing A] [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
+  [AddCommMonoid C] [Module R C] [CoalgebraStruct R C]
+
+/-- Non-unital and non-associative convolution ring structure on linear maps from a
+coalgebra to a non-unital and non-associative algebra. -/
+abbrev convNonUnitalNonAssocRing : NonUnitalNonAssocRing (C →ₗ[R] A) where
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/Coalgebra/Convolution.lean:85]: why is this an `abbrev` and not an instance?

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Convolution.lean:85]: So none of these would conflict with the global instance on `End R A` ([Module.End.instMul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap/End.html#Module.End.instMul)), which is mathematically distinct from this product.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
